US07199147B2
A 2N-aqueous sodium hydroxide solution (0.63 ml, 1.3 mmol) was added to a solution of methyl 1-acetyl-6-methyl-1H-indazole-5-carboxylate (0.0731 g, 0.315 mmol) in tetrahydrofuran (1 ml), and the resulting mixture was stirred for 3 hours with heating under reflux. Then, a 2N-aqueous lithium hydroxide solution (0.63 ml, 1.3 mmol) was added thereto and stirred for another 3 hours. The resulting solution was diluted with water and washed with diethyl ether, and the aqueous layer was adjusted to pH 1 to 2 with 1N-hydrochloric acid to precipitate a solid. The solid precipitated was collected by filtration and the precipitate on a filter was washed with water and dried under reduced pressure to obtain 6-methyl-1H-indazole-5-carboxylic acid (0.0514 g, 93%).

reactant | sodium hydroxide | 1.3 mmol, 0.63 ml | [OH-].[Na+]
reactant | methyl 1-acetyl-6-methyl-1H-indazole-5-carboxylate | 0.315 mmol, 0.0731 g | C(C)(=O)N1N=CC2=CC(=C(C=C12)C)C(=O)OC | C12H12N2O3
reactant | lithium hydroxide | 1.3 mmol, 0.63 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-methyl-1H-indazole-5-carboxylic acid | 0.0514 g, 93% | CC1=C(C=C2C=NNC2=C1)C(=O)O | C9H8N2O2
